US09403831B2
(S)-tert-butyl 2-((tosyloxy)methyl)morpholine-4-carboxylate (63.7 g, 171.52 mmol) was dissolved in DMF (550 ml), and then NaN3 (44.59 g, 686.08 mmol) and NaI (2.5 g, 17.15 mmol) were added, followed by stirring at 70° C. overnight. After the completion of the reaction, the reaction mixture was extracted with H2O and EA, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the residue was purified by column chromatography (EA:Hex=1:5), to give (S)-tert-butyl 2-(azidomethyl)morpholine-4-carboxylate as a white solid (31.1 g, 75%).

reactant | (S)-tert-butyl 2-((tosyloxy)methyl)morpholine-4-carboxylate | 171.52 mmol, 63.7 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C17H25NO6S
reactant | NaN3 | 686.08 mmol, 44.59 g | [N-]=[N+]=[N-].[Na+]
reactant | NaI | 17.15 mmol, 2.5 g | [Na+].[I-]
solvent | DMF | 550 ml | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 2-(azidomethyl)morpholine-4-carboxylate | 31.1 g, 75% | N(=[N+]=[N-])C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H18N4O3
